US04838924
1,1-dimethyl-3-[2-(3-methyl-2,3-dihydro-6-benzofuryloxy)pyridin-5-yl]urea
2-(3-Methyl-2,3-dihydro-6-benzofuryloxy)-5-aminopyridine (0.5 g) was dissolved in 2.5 ml of pyridine, and a solution of composed 0.27 g of dimethylcarbamoyl chloride and 2.5 ml of toluene was added. A solution composed of 0.27 g of diethylcarbamoyl chloride and 2.5 ml of toluene was added, and the mixture was stirred at room temperature for 9 hours. Water and ethyl acetate were added to the reaction mixture, and the organic layer was separated. The organic layer was washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. Ethyl acetate was evaporated under reduced pressure, and the precipitated crystals were washed with n-hexane to give 0.63 g (yield 96%) of the desired product as pale brown crystals.

reactant | 2-(3-Methyl-2,3-dihydro-6-benzofuryloxy)-5-aminopyridine | 0.5 g | CC1COC2=C1C=CC(=C2)OC2=NC=C(C=C2)N | C14H14N2O2
reactant | dimethylcarbamoyl chloride | 0.27 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
reactant | diethylcarbamoyl chloride | 0.27 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 1,1-dimethyl-3-[2-(3-methyl-2,3-dihydro-6-benzofuryloxy)pyridin-5-yl]urea | 0.63 g, yield 96% | CN(C(=O)NC=1C=CC(=NC1)OC1=CC2=C(C(CO2)C)C=C1)C | C17H19N3O3
